US05434271
A 1-L pressure reactor was charged with 1-dimethylamino-2-(4-methylsulphonyl-2-nitrophenyl)ethene (54.0 g, 0.2 mol), 5.0% palladium on carbon hydrogenation catalyst (0.3 g) and tetrahydrofuran (500 mL). The reactor then was sealed, pressurized to approximately 30 bars absolute with hydrogen and heated with stirring to 50° C., at which point an exotherm caused the temperature to rise to approximately 85° C. The reaction mixture then was stirred at 60°-70° C. for 1 hour, after which time the reactor was cooled and vented. The reaction mixture was filtered to remove the catalyst and the filtrate was concentrated under reduced pressure to give a brown solid which was dissolved in ethyl acetate (500 mL) and washed with 1M aqueous hydrochloric acid (3×200 mL) and then water (2×200 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give a pale brown solid which was slurried in 53% weight:weight ethyl acetate in hexane (about 60 mL). The solid was collected by suction filtration and dried to give crude 1-hydroxy-6-methylsulphonylindole as a pale brown solid (33.1 g, 78% of theory). This crude product was recrystallized from acetonitrile to give a white crystalline product (17.8 g, 42% of theory). The filtrate from the recrystallization was concentrated in vacuo to a heavy slush which was cooled, filtered and washed with ice-cold acetonitrile to give a second crop of 1-hydroxy-6-methylsulphonylindole (10.7 g, 25% of theory) which was recrystallized twice from acetonitrile to give the product as a white, crystalline solid (3.8 g, 9% of theory). Thus, the total yield of 1-hydroxy-6-methylsulphonylindole was 21.6 g (51% of theory). Melting point 174°-176° C.; Rf (66% weight:weight ethyl acetate in hexane) 0.36. Calculated: C, 51.17; H, 4,29; N, 6.63. Found: C, 51.10; H, 4,16; N, 6.67.

reactant | 1-dimethylamino-2-(4-methylsulphonyl-2-nitrophenyl)ethene | 0.2 mol, 54.0 g | CN(C=CC1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-])C | C11H14N2O4S
reactant | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | hexane | about 60 mL | CCCCCC | C6H14
product | 1-hydroxy-6-methylsulphonylindole | 10.7 g, 25% | ON1C=CC2=CC=C(C=C12)S(=O)(=O)C | C9H9NO3S
